US04009168
Synthesis of bis(3-cyano-4-methyl-6-phenyl-2-pyridyl) disulfide
An ethanolic solution containing sodium ethoxide was prepared by dissolving 0.74 g of metallic sodium in 70 ml of ethanol. To the solution was added 7.28 g of 3-cyano-4-methyl-6-phenyl-2-pyridinethiol. The mixture was stirred at room temperature for about 20 minutes to give a yellowish homogeneous solution. To this solution was added dropwise with stirring at room temperature 60 ml of ethanol containing 4.09 g of iodine. With addition, colorless crystals began to precipitate and there was obtained a suspension at the time of completion of the addition. After completion of the addition, stirring was continued for about 2 hours at room temperature. The reaction mixture was then filtered and the collected substance was dried to give 7.00 g of brownish crystals. The obtained crystals were recrystallized from benzene. The crystals recrystallized had a melting point of 200°~201° C and were identified by the elemental analyses and IR spectrum as bis(3-cyano-4-methyl-6-phenyl-2-pyridyl) disulfide.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.74 g | [Na] | Na
reactant | 3-cyano-4-methyl-6-phenyl-2-pyridinethiol | 7.28 g | C(#N)C=1C(=NC(=CC1C)C1=CC=CC=C1)S | C13H10N2S
reactant | iodine | II | I2
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml, 4.09 g | C(C)O | C2H6O
product | bis(3-cyano-4-methyl-6-phenyl-2-pyridyl) disulfide | 7.00 g | C(#N)C=1C(=NC(=CC1C)C1=CC=CC=C1)SSC1=NC(=CC(=C1C#N)C)C1=CC=CC=C1 | C26H18N4S2
